US05654316
N-(4-Chlorophenyl)-4-hydroxy-N-methyl-Beta,4-diphenyl-1-piperidinepentanamide
N-(4-Chlorophenyl)-beta-(2-methanesulfonyloxyethyl)-N-methyl-benzenepropanamide (1.44 g) in DMF (10 mL) was treated with 4-phenyl-4-hydroxypiperidine (1.61 g) and the mixture heated at 80° C. for 2 hours. The cooled reaction mixture was diluted the EtOAc (50 mL) and water (50 mL) and the aqueous phase removed. The aqueous layer was extracted with EtOAc (2×50 mL) and the combined organic extracts, washed with water (50 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give an oil. Silica gel chromatography eluting with 10% MeOH:CH2Cl2 gave the title compound (0.7 g). Mass spectrum (FAB): 477.

reactant | N-(4-Chlorophenyl)-beta-(2-methanesulfonyloxyethyl)-N-methyl-benzenepropanamide | 1.44 g | ClC1=CC=C(C=C1)N(C(CC(C1=CC=CC=C1)CCOS(=O)(=O)C)=O)C | C19H22ClNO4S
reactant | 4-phenyl-4-hydroxypiperidine | 1.61 g | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
reactant | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorophenyl)-4-hydroxy-N-methyl-Beta,4-diphenyl-1-piperidinepentanamide | 0.7 g | ClC1=CC=C(C=C1)N(C(CC(CCN1CCC(CC1)(C1=CC=CC=C1)O)C1=CC=CC=C1)=O)C | C29H33ClN2O2
